US04753953
8-Chloro-1-cyclopropyl-7-(3-ethylaminomethyl-4-methyl-1-pyrrolidinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.5 g), anhydrous acetonitrile (5 ml), 3-ethylaminomethyl-4-methylpyrrolidine (0.36 g) and DBU (0.25 g) was refluxed for 2 hours and allowed to stand overnight at room temperature. The resulting precipitate was collected by filtration, washed with acetonitrile and ether successively and recrystallized from chloroform-methanol-concentrated aqueous ammonia to give the title compound (0.56 g) as pale yellow powder, mp 254°-257° C.

reactant | 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.5 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)F | C13H8ClF2NO3
reactant | 3-ethylaminomethyl-4-methylpyrrolidine | 0.36 g | C(C)NCC1CNCC1C | C8H18N2
reactant | DBU | 0.25 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 8-Chloro-1-cyclopropyl-7-(3-ethylaminomethyl-4-methyl-1-pyrrolidinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.56 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1CC(C(C1)C)CNCC | C21H25ClFN3O3
